US07094790B2
3-(2-(R)-Methyl-pyrrolidin-1-yl)-propionic acid ethyl ester
In a round-bottom flask, 2-(R)-methylpyrrolidine HCl (5.5 g, 45 mmol) was dissolved in CH3CN (20 mL). To the stirred solution was added milled K2CO3 (8.3 g, 60 mmol). The suspension was stirred at room temperature for approximately 1 h. Ethyl acrylate (3.25 mL, 30 mmol) and EtOH (40 mL) were then added. The reaction mixture was stirred until analysis by GC showed completion (the Area % of ethyl acrylate was less than 1% (approximately 2 h)). The reaction mixture was filtered and the wet cake (excess K2CO3) was washed with CH3CN (5–10 mL). The filtered solution was then concentrated under reduced pressure to minimum volume (white slurry). Methyl t-butyl ether (MTBE) and H2O were added, at which time all solids dissolved. The organic layer was washed a second time with water and then concentrated to yield 5.6 g of the title compound. The oil product was used in the next step without further purification.

reactant | 2-(R)-methylpyrrolidine HCl | 45 mmol, 5.5 g | Cl.C[C@H]1NCCC1
reactant | K2CO3 | 60 mmol, 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ethyl acrylate | 30 mmol, 3.25 mL | C(C=C)(=O)OCC | C5H8O2
reactant | EtOH | 40 mL | CCO | C2H6O
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 3-(2-(R)-Methyl-pyrrolidin-1-yl)-propionic acid ethyl ester | 5.6 g | C(C)OC(CCN1[C@@H](CCC1)C)=O | C10H19NO2
